US07378448B2
Combine 4-aminophenylacetonitrile (5.0 g, 37.9 mmol) and 6-chloro-nicotinamide (6.3 g, 40.3 mmol) in a flask and heat at 150° C. for 5 hours. Cool, dissolve the residue in methanol, dilute with ethyl acetate, then wash with saturated aqueous sodium bicarbonate solution. Dry the organic layer over sodium chloride/magnesium sulfate, filtered, and concentrated on a rotary evaporator to yield the crude product (10 g). The crude product was purified by flash column chromatography on silica gel eluting with 10% aqueous ammonium hydroxide in ethanol and chloroform to yield 6-(4-cyanomethyl-phenylamino)-nicotinamide. Triturate the resulting solid with hot isopropanol, collect the precipitate to yield 6-(4-cyanomethyl-phenylamino)-nicotinamide (1.8 g): 1H NMR (DMSO-D6, 300.00 MHz): 9.48 (s, 1H), 8.69 (d, 1H, J=2.1 Hz), 8.03-7.71 (m, 4H), 7.31-7.21 (m, 3H), 6.85 (d, 1H, J=8.8 Hz), 3.97 (s, 2H). Step 2 6-[4-(2-Amino-ethyl)-phenylamino]-nicotinamide

reactant | 4-aminophenylacetonitrile | 37.9 mmol, 5.0 g | NC1=CC=C(C=C1)CC#N | C8H8N2
reactant | 6-chloro-nicotinamide | 40.3 mmol, 6.3 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(4-cyanomethyl-phenylamino)-nicotinamide | C(#N)CC1=CC=C(C=C1)NC1=NC=C(C(=O)N)C=C1 | C14H12N4O
